US06114532
d. ethyl(4-chloro-3-nitro-phenyl)-n-pentyl-phosphinate
Prepared analogously to Example 189b from ethyl(4-chlorophenyl)-n-pentyl-phosphinate and fuming nitric acid.

reactant | ethyl(4-chlorophenyl)-n-pentyl-phosphinate | C(C)OP(=O)(CCCCC)C1=CC=C(C=C1)Cl | C13H20ClO2P
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | ethyl(4-chloro-3-nitro-phenyl)-n-pentyl-phosphinate | C(C)OP(=O)(CCCCC)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C13H19ClNO4P
